US05677305
6-Nitro-7-(3-nitro-4-oxo-4H-pyridin-1-yl-)-1,4-dihydroquinoxaline-2,3-dione
First, 677 mg of 7-fluoro-6-nitro-1,4-dihydroquinoxaline-2,3-dione, 840 mg of 4-hydroxy-3-nitropyridine, 403 mg of powdered potassium hydroxide were added to 6 ml of dry dimethylsulfoxide. The mixture was allowed to react at 130° C. for 2 hours in a nitrogen atmosphere. The subsequent processes were conducted in the same way as in Example 2. The resultant precipitate was recrystallized with dimethylformaldehyde and water, giving 672 mg of red crystals of 6-nitro-7-(3-nitro-4-oxo-4H-pyridin-1-yl)-1,4-dihydroquinoxaline-2,3-dione

reactant | 7-fluoro-6-nitro-1,4-dihydroquinoxaline-2,3-dione | 677 mg | FC1=C(C=C2NC(C(NC2=C1)=O)=O)[N+](=O)[O-] | C8H4FN3O4
reactant | 4-hydroxy-3-nitropyridine | 840 mg | OC1=C(C=NC=C1)[N+](=O)[O-] | C5H4N2O3
reactant | potassium hydroxide | 403 mg | [OH-].[K+]
solvent | dimethylsulfoxide | 6 ml | CS(=O)C | C2H6OS
product | 6-Nitro-7-(3-nitro-4-oxo-4H-pyridin-1-yl-)-1,4-dihydroquinoxaline-2,3-dione | 672 mg | [N+](=O)([O-])C=1C=C2NC(C(NC2=CC1N1C=C(C(C=C1)=O)[N+](=O)[O-])=O)=O | C13H7N5O7
